US04464391
(b) 3-Benzoylbenzaldehyde (alternative preparation)
3-Benzoylbenzyl alcohol (2.0 g) in acetone (10 ml) was treated dropwise at 15°-20° C. with chromic acid solution. After stirring for 5 minutes, water (50 ml) was added and the mixture extracted with ether. The ethereal solution was washed with saturated Na2CO3, saturated NaCl, dried (Na2SO4), evaporated and distilled; b.p. 160°-170° C./0.08 mm, (1.1 g).

reactant | 3-Benzoylbenzyl alcohol | 2.0 g | C(C1=CC=CC=C1)(=O)C=1C=C(CO)C=CC1 | C14H12O2
reactant | chromic acid | [Cr](=O)(=O)(O)O
reactant | water | 50 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-Benzoylbenzaldehyde | C(C1=CC=CC=C1)(=O)C=1C=C(C=O)C=CC1 | C14H10O2
